US08039483B2
Carbonic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester thiophen-2-ylmethyl ester
The desired product was prepared by reacting imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester with 2-hydroxy methyl thiophene.

reactant | imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(=O)N2C=NC=C2 | C11H15N3O2
reactant | 2-hydroxy methyl thiophene | OCC=1SC=CC1 | C5H6OS
product | Carbonic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester thiophen-2-ylmethyl ester | S1C(=CC=C1)COC(O[C@H]1CN2CCC1CC2)=O | C13H17NO3S
